US07897600B2
2-((6-Chloro-3-(4-chloro-2-fluorobenzoyl)-2-methylimidazo[1,2-b]pyridazin-8-yl)methyl)isoindoline-1,3-dione
Combine (4-chloro-2-fluorophenyl)(6-chloro-2-methylimidazo[1,2-b]pyridazin-3-yl)methanone (5.6 g, 17.3 mmol), N-phthaloylglycine (6.0 g, 1.7 equiv.), acetonitrile (60 mL), water (15 mL), trifluoroacetic acid (0.26 mL, 0.2 equiv.), and silver nitrate (294 mg, 0.1 equiv.) in a round bottom flask with attached addition funnel and place under nitrogen. Heat to 70° C. and maintain at this temperature for 15 min. Dissolve ammonium persulfate (7.1 g, 1.8 equiv.) in water (15 mL) and charge to an addition funnel Add drop-wise to the reaction flask over approximately 20 min. Heat reaction at 70° C. for 1 h. A precipitate forms during this time; filter via Buchner funnel to isolate the title compound crude (7.3 g, 87%) as an off-white solid. LCMS (4 min)=483.0, 485.0, M+1).

reactant | (4-chloro-2-fluorophenyl)(6-chloro-2-methylimidazo[1,2-b]pyridazin-3-yl)methanone | 17.3 mmol, 5.6 g | ClC1=CC(=C(C=C1)C(=O)C1=C(N=C2N1N=C(C=C2)Cl)C)F | C14H8Cl2FN3O
reactant | N-phthaloylglycine | 6.0 g, 1.7 equiv. | C1=CC=C2C(=C1)C(=O)N(C2=O)CC(=O)O | C10H7NO4
reactant | trifluoroacetic acid | 0.26 mL, 0.2 equiv. | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonium persulfate | 7.1 g, 1.8 equiv. | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 15 mL | O | H2O
catalyst | silver nitrate | 294 mg, 0.1 equiv. | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 15 mL | O | H2O
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 2-((6-Chloro-3-(4-chloro-2-fluorobenzoyl)-2-methylimidazo[1,2-b]pyridazin-8-yl)methyl)isoindoline-1,3-dione | ClC=1C=C(C=2N(N1)C(=C(N2)C)C(C2=C(C=C(C=C2)Cl)F)=O)CN2C(C1=CC=CC=C1C2=O)=O | C23H13Cl2FN4O3
